US03997590
A mixture of ethyl 2,4-dioxo-6-p-tolylcyclohexanecarboxylate (5 g.) prepared as in Example 1, and p-toluenesulphonic acid (0.5 g.) dissolved in 2-ethoxyethanol (50 ml.) was allowed to stand at 25° C for 16 hrs. Pouring the mixture into excess aqueous Na2CO3 solution followed by ether extraction afforded a mauve coloured solution containing the product. After decolourisation of the solution with activated charcoal, evaporation of solvents and crystallisation of the residue from ether/cyclohexane afforded ethyl 4-ethoxyethoxy-2-oxo-6-p-tolyl-3cyclohexenecarboxylate m.p. 59°-60° C.

reactant | ethyl 2,4-dioxo-6-p-tolylcyclohexanecarboxylate | 5 g | O=C1C(C(CC(C1)=O)C1=CC=C(C=C1)C)C(=O)OCC | C16H18O4
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-ethoxyethanol | 50 ml | C(C)OCCO | C4H10O2
product | ethyl 4-ethoxyethoxy-2-oxo-6-p-tolyl-3cyclohexenecarboxylate | C(C)OCCOC1=CC(C(C(C1)C1=CC=C(C=C1)C)C(=O)OCC)=O | C20H26O5
